US06667322B2
To a solution of tert-butyl(dimethyl)silyl [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl ether (4.50 g, 14.6 mmol) in tetrahydrofuran (150 mL) at 0° C. was added excess tetrabutylammonium fluoride (1.0 M in tetrahydrofuran) and the reaction mixture was allowed to stir at 22° C. for 30 min. The solvent was removed in vacuo and the residue was purified by flash column chromatography (silica, ethyl acetate:hexanes 1:1) to give 2.49 g (88%, 40% ee) of [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methanol as a white crystalline solid.

reactant | tert-butyl(dimethyl)silyl [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methyl ether | 14.6 mmol, 4.50 g | COC=1C=CC=C2CC[C@@H](OC12)CO[Si](C)(C)C(C)(C)C | C17H28O3Si
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | [(2R)-8-methoxy-3,4-dihydro-2H-chromen-2-yl]methanol | 2.49 g, 88% | COC=1C=CC=C2CC[C@@H](OC12)CO | C11H14O3
